### PR TITLE
[Merged by Bors] - feat(Topology/ContinuousMap/CompactlySupported): left-composition with a continuous map

### PR DESCRIPTION
**Pull request by yoh-tanimoto**
Add `compLeft` which gives `g ∘ f : C_c(α, γ)` from `g : C(β, γ)`, `f : C_c(α, β))`.

---

Split from #20257

### CODE REVIEW

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 1]
```diff
@@ -124,6 +124,15 @@ def ContinuousMap.liftCompactlySupported [CompactSpace α] : C(α, β) ≃ C_c(
   left_inv _ := rfl
   right_inv _ := rfl
 
+/-- Composition of a continuous function `f` with compact support with another continuous function
+`g` from the left yields another continuous function `g ∘ f` with compact support. -/
+def comp_left {γ : Type*} [TopologicalSpace γ] [Zero γ] {g : C(β, γ)} (f : C_c(α, β))
+    (hg : g 0 = 0) : C_c(α, γ) where
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:130]:
```suggestion
@[simps]
def comp_left {γ : Type*} [TopologicalSpace γ] [Zero γ] {g : C(β, γ)} (f : C_c(α, β))
    (hg : g 0 = 0) : C_c(α, γ) where
```
assuming it does something useful (you can check with `simps?`)

Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:130]: Can you make this return `0` if `g 0 ≠ 0`? Then you don't need the `hg` argument

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 2]
```diff
@@ -124,6 +124,15 @@ def ContinuousMap.liftCompactlySupported [CompactSpace α] : C(α, β) ≃ C_c(
...
+  toContinuousMap := g.comp f
+  hasCompactSupport' := by
+    simp only [ContinuousMap.toFun_eq_coe, ContinuousMap.coe_comp, ContinuousMap.coe_coe]
+    exact HasCompactSupport.comp_left f.hasCompactSupport' hg
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:134]:
```suggestion
  hasCompactSupport' := f.hasCompactSupport'.comp_left hg
```

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean (hunk 1 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousMap/CompactlySupported.lean]: I'm not sure if I understood... I tried to do it, is this what you mean? I had to remove `@[simps]` because it is not a constructor application.

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 3]
```diff
@@ -124,6 +124,20 @@ def ContinuousMap.liftCompactlySupported [CompactSpace α] : C(α, β) ≃ C_c(
   left_inv _ := rfl
   right_inv _ := rfl
 
+/-- Composition of a continuous function `f` with compact support with another continuous function
+`g` from the left yields another continuous function `g ∘ f` with compact support. -/
+noncomputable def comp_left {γ : Type*} [TopologicalSpace γ] [Zero γ] {g : C(β, γ)}
+    (f : C_c(α, β)) : C_c(α, γ) where
+  toContinuousMap := if g 0 = 0 then g.comp f else 0
+  hasCompactSupport' := by
+    by_cases hg : g 0 = 0
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:133]:
```suggestion
    classical
    split hg
```

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 4]
```diff
@@ -124,6 +124,20 @@ def ContinuousMap.liftCompactlySupported [CompactSpace α] : C(α, β) ≃ C_c(
   left_inv _ := rfl
   right_inv _ := rfl
 
+/-- Composition of a continuous function `f` with compact support with another continuous function
+`g` from the left yields another continuous function `g ∘ f` with compact support. -/
+noncomputable def comp_left {γ : Type*} [TopologicalSpace γ] [Zero γ] {g : C(β, γ)}
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:129]:
```suggestion
noncomputable def compLeft {γ : Type*} [TopologicalSpace γ] [Zero γ] (g : C(β, γ))
```

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 5]
```diff
@@ -124,6 +124,20 @@ def ContinuousMap.liftCompactlySupported [CompactSpace α] : C(α, β) ≃ C_c(
   left_inv _ := rfl
   right_inv _ := rfl
 
+/-- Composition of a continuous function `f` with compact support with another continuous function
+`g` from the left yields another continuous function `g ∘ f` with compact support. -/
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:128]:
```suggestion
`g` sending `0` to `0` from the left yields another continuous function `g ∘ f` with compact support.

 If `g` doesn't send `0` to `0`, `f.compLeft g` defaults to `0`. -/
```

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 6]
```diff
@@ -124,6 +124,20 @@ def ContinuousMap.liftCompactlySupported [CompactSpace α] : C(α, β) ≃ C_c(
...
+  toContinuousMap := if g 0 = 0 then g.comp f else 0
+  hasCompactSupport' := by
+    by_cases hg : g 0 = 0
+    · rw [if_pos hg]
+      simp only [ContinuousMap.toFun_eq_coe, ContinuousMap.coe_comp, ContinuousMap.coe_coe]
+      exact HasCompactSupport.comp_left f.hasCompactSupport' hg
+    · rw [if_neg hg]
+      simp only [ContinuousMap.toFun_eq_coe, ContinuousMap.coe_zero]
+      exact HasCompactSupport.zero
+
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:140]:
```suggestion

lemma toContinuousMap_compLeft (hg : g 0 = 0) : (f.compLeft g).toContinuousMap = g.comp f := if_pos hg

lemma coe_compLeft (hg : g 0 = 0) : f.compLeft g = g ∘ f := sorry

lemma compLeft_apply (hg : g 0 = 0) (a : α) : f.compLeft g a = g (f a) := sorry
```

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 7]
```diff
@@ -46,7 +46,7 @@ scoped[CompactlySupported] notation (priority := 2000)
 @[inherit_doc]
 scoped[CompactlySupported] notation α " →C_c " β => CompactlySupportedContinuousMap α β
 
-open CompactlySupported
+open CompactlySupported Classical
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:49]:
```suggestion
open CompactlySupported
```

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 8]
```diff
@@ -124,6 +124,20 @@ def ContinuousMap.liftCompactlySupported [CompactSpace α] : C(α, β) ≃ C_c(
   left_inv _ := rfl
   right_inv _ := rfl
 
+/-- Composition of a continuous function `f` with compact support with another continuous function
+`g` from the left yields another continuous function `g ∘ f` with compact support. -/
+noncomputable def comp_left {γ : Type*} [TopologicalSpace γ] [Zero γ] {g : C(β, γ)}
+    (f : C_c(α, β)) : C_c(α, γ) where
+  toContinuousMap := if g 0 = 0 then g.comp f else 0
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:131]:
```suggestion
  toContinuousMap := by classical exact if g 0 = 0 then g.comp f else 0
```

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Topology/ContinuousMap/CompactlySupported.lean]: That means you should use `@[simps!]` instead of `@[simps]`

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean (hunk 3 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousMap/CompactlySupported.lean]: `split hg` fails... I use `by_cases`

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean (hunk 1 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousMap/CompactlySupported.lean]: `@[simps!]` fails as well

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Topology/ContinuousMap/CompactlySupported.lean:138]: What about `split_ifs`?

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 9]
```diff
@@ -124,6 +124,39 @@ def ContinuousMap.liftCompactlySupported [CompactSpace α] : C(α, β) ≃ C_c(
   left_inv _ := rfl
   right_inv _ := rfl
 
+variable {γ : Type*} [TopologicalSpace γ] [Zero γ]
+
+/-- Composition of a continuous function `f` with compact support with another continuous function
+`g` sending `0` to `0` from the left yields another continuous function `g ∘ f` with compact
+support.
+
+ If `g` doesn't send `0` to `0`, `f.compLeft g` defaults to `0`. -/
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:133]:
```suggestion
If `g` doesn't send `0` to `0`, `f.compLeft g` defaults to `0`. -/
```

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 10]
```diff
@@ -124,6 +124,39 @@ def ContinuousMap.liftCompactlySupported [CompactSpace α] : C(α, β) ≃ C_c(
...
+lemma toContinuousMap_compLeft {g : C(β, γ)} (f : C_c(α, β)) (hg : g 0 = 0) :
+    (f.compLeft g).toContinuousMap = g.comp f := if_pos hg
+
+lemma coe_compLeft {g : C(β, γ)} (f : C_c(α, β)) (hg : g 0 = 0) : f.compLeft g = g ∘ f := by
+  rw [compLeft]
+  simp only [coe_mk]
+  rw [if_pos hg]
+  simp
+
+lemma compLeft_apply {g : C(β, γ)} (f : C_c(α, β)) (hg : g 0 = 0) (a : α) :
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:155]:
```suggestion
lemma compLeft_apply {g : C(β, γ)} (hg : g 0 = 0) (f : C_c(α, β)) (a : α) :
```

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 11]
```diff
@@ -124,6 +124,39 @@ def ContinuousMap.liftCompactlySupported [CompactSpace α] : C(α, β) ≃ C_c(
...
+      simp only [ContinuousMap.toFun_eq_coe, ContinuousMap.coe_comp, ContinuousMap.coe_coe]
+      exact HasCompactSupport.comp_left f.hasCompactSupport' hg
+    · rw [if_neg hg]
+      simp only [ContinuousMap.toFun_eq_coe, ContinuousMap.coe_zero]
+      exact HasCompactSupport.zero
+
+lemma toContinuousMap_compLeft {g : C(β, γ)} (f : C_c(α, β)) (hg : g 0 = 0) :
+    (f.compLeft g).toContinuousMap = g.comp f := if_pos hg
+
+lemma coe_compLeft {g : C(β, γ)} (f : C_c(α, β)) (hg : g 0 = 0) : f.compLeft g = g ∘ f := by
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:149]:
```suggestion
lemma coe_compLeft {g : C(β, γ)} (hg : g 0 = 0) (f : C_c(α, β)) : f.compLeft g = g ∘ f := by
```

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 12]
```diff
@@ -124,6 +124,39 @@ def ContinuousMap.liftCompactlySupported [CompactSpace α] : C(α, β) ≃ C_c(
...
+    classical
+    by_cases hg : g 0 = 0
+    · rw [if_pos hg]
+      simp only [ContinuousMap.toFun_eq_coe, ContinuousMap.coe_comp, ContinuousMap.coe_coe]
+      exact HasCompactSupport.comp_left f.hasCompactSupport' hg
+    · rw [if_neg hg]
+      simp only [ContinuousMap.toFun_eq_coe, ContinuousMap.coe_zero]
+      exact HasCompactSupport.zero
+
+lemma toContinuousMap_compLeft {g : C(β, γ)} (f : C_c(α, β)) (hg : g 0 = 0) :
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:146]:
```suggestion
lemma toContinuousMap_compLeft {g : C(β, γ)} (hg : g 0 = 0) (f : C_c(α, β)) :
```

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Topology/ContinuousMap/CompactlySupported.lean]: I meant `@[simps! toContinuousMap]` but I guess it's okay not to have it since the lemmas we want are conditional on `g 0 = 0`

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean (hunk 3 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousMap/CompactlySupported.lean:138]: worked!

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
